US04266056
To 10.0 g of α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide dissolved in about 40 ml of hot ethanol is added 6.45 g of 2,6-difluoroaniline in 15 ml of ethanol. The reaction mixture is stirred at reflux for about 6 hours, cooled and filtered to yield α-cyano-β-(2,6-difluoroanilino)-N-ethoxycarbonylacrylamide, white solid (12.61 g), which is added to 60 ml of tetralin and heated at reflux for 5 hours. The mixture is allowed to cool, filtered and washed with ether to yield 10.21 g of 5-cyano-1-(2,6-difluorophenyl)uracil, white solid.

reactant | α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide | 10.0 g | C(#N)C(C(=O)NC(=O)OCC)=COCC | C9H12N2O4
reactant | 2,6-difluoroaniline | 6.45 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
solvent | ethanol | about 40 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | α-cyano-β-(2,6-difluoroanilino)-N-ethoxycarbonylacrylamide | C(#N)C(C(=O)NC(=O)OCC)=CNC1=C(C=CC=C1F)F | C13H11F2N3O3
